US09062032B2
By using 550 mg of methyl 4-{2-[4-({[2-({3-[(isopropylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate and 200 mg of 4-(diethoxyphosphoryl)butanoic acid as starting materials, the reaction similar to Preparation Example 27 was performed, thereby obtaining 600 mg of methyl 4-[2-(4-{[(2-{[3-({[4-(diethoxyphosphoryl)butanoyl](isopropyl)amino}methyl)benzoyl}amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate.

reactant | methyl 4-{2-[4-({[2-({3-[(isopropylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 550 mg | C(C)(C)NCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C36H39N3O4S
reactant | 4-(diethoxyphosphoryl)butanoic acid | 200 mg | C(C)OP(=O)(OCC)CCCC(=O)O | C8H17O5P
product | methyl 4-[2-(4-{[(2-{[3-({[4-(diethoxyphosphoryl)butanoyl](isopropyl)amino}methyl)benzoyl}amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 600 mg | C(C)OP(=O)(OCC)CCCC(=O)N(C(C)C)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C44H54N3O8PS
